US05491144
In an autoclave, 457 mg (1 mmol) of 4,5-bis(N-allylanilino)phthalic acid dimethyl ester are dissolved in 5 ml of methanol, and 15 ml of ammonia areused for the purpose of amide formation. The autoclave is closed and then heated at 120° C. for 24 hours, then cooled and opened, and the ammonia is driven off with nitrogen. The residue is rinsed out with ethyl acetate and filtered, and the filtrate is chromatographed on silica gel with hexane/ethyl acetate 3:1. The product fractions are concentrated by evaporation and crystallized from hexane/ethyl acetate, yielding the titlecompound in the form of yellow crystals, FAB-MS: 410 [M+ +H], m.p. 122°-127° C. As by product of the reaction, 4,5-Bis-(N-allyl-N-phenylamino)phthalic acid monoamide was isolated and recrystallized from hexane/ethyl acetate to yield yellow crystalIs, FAB-MS: 428 [M+ +H], m.p. 114°-116° C.

reactant | 4,5-bis(N-allylanilino)phthalic acid dimethyl ester | 1 mmol, 457 mg | COC(C=1C(C(=O)OC)=CC(=C(C1)N(C1=CC=CC=C1)CC=C)N(C1=CC=CC=C1)CC=C)=O | C28H28N2O4
reactant | ammonia | 15 ml | N | H3N
solvent | methanol | 5 ml | CO | CH4O
product | 4,5-Bis-(N-allyl-N-phenylamino)phthalic acid monoamide | C(C=C)N(C1=CC=CC=C1)C=1C=C(C(C(=O)N)=CC1N(CC=C)C1=CC=CC=C1)C(=O)O | C26H25N3O3
